US06528525B1
(b) 4-[3-(4-Pyridine-2-ylbenzoylamino)propyl]benzylalcohol
Palladium on carbon (5%, 0.15 g) was added to a solution of 4-(3-benzyloxycarbonylaminopropyl)benzylalcohol (1.00 g), which is the product of Reference example 50(a) in ethanol (20 ml). The mixture was stirred under an atmosphere of hydrogen at ambient temperature for 2 hours. The catalyst was removed by filtration and the filtrate was concentrated to afford 4-(3-aminopropyl)benzylalcohol as a gum. In a similar manner to that described in Example 5, a reaction was carried out using 4-(3-aminopropyl)benzylalcohol, 4-pyridine-2-ylbenzoic acid (668 mg) and carbonyidiimidazole (650 mg) and the reaction mixture was treated to afford the desired compound (0.74 g) as colorless crystals.

reactant | 4-(3-aminopropyl)benzylalcohol | NCCCC1=CC=C(CO)C=C1 | C10H15NO
reactant | 4-pyridine-2-ylbenzoic acid | 668 mg | N1=C(C=CC=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | carbonyidiimidazole | 650 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 4-[3-(4-Pyridine-2-ylbenzoylamino)propyl]benzylalcohol | 0.74 g | N1=C(C=CC=C1)C1=CC=C(C(=O)NCCCC2=CC=C(CO)C=C2)C=C1 | C22H22N2O2
